US06340758B1
5-Methyl-isatoic anhydride (2)
To an aqueous solution of anthranilic acid (100 g, 0.66 mol) and sodium carbonate (0.7 mol) a solution of phosgene in toluene (362 mL, 1.93 M, 0.7 mol) was added dropwise under vigorous stirring. The reaction becomes a suspension and is stirred for additional 8 hours and filtered. The residue was treated with aqueous Na2CO3 and filtered. Washed with water (4×150 mL) and dried.

reactant | anthranilic acid | 0.66 mol, 100 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | sodium carbonate | 0.7 mol | C([O-])([O-])=O.[Na+].[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.7 mol, 1.93 M, 362 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methyl-isatoic anhydride | CC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C9H7NO3
